US05198451
(R)-N-(6-(Diphenylamino)-1-hexyl)-3-piperidinecarboxylic acid ethyl ester
A mixture of sodium hydride (0.7 g, 0.023 mol, 80% oil dispersion) and diphenylamine (3.4 g, 0.020 mol) in dry dibutylether (30 ml) was heated at reflux temperature for 1 h under an atmosphere of nitrogen. The reaction mixture was cooled and 1,6-dibromohexane (3.1 ml) was added. The mixture was heated at reflux temperature for 3 h and then cooled to 40° C. Ethyl (R)-3-piperidinecarboxylate (3.5 g, 0.022 mol) and potassium carbonate (3.1 g, 0.022 mol) were added and the mixture was heated at reflux temperature for 16 h under an atmosphere of nitrogen. Ethyl acetate (50 ml) was added, the mixture was filtered and the solvent was evaporated in vacuo. The residue was submitted to flash chromatography on silica gel (200 g) using a mixture of n-heptane and THF (4:1) as eluent. This provided 3.4 g (42% calculated from diphenylamine) of the title compound as an oil. TLC: rf=0.26 (SiO 2 ; n-heptane/THF=7:3).

reactant | sodium hydride | 0.023 mol, 0.7 g | [H-].[Na+]
reactant | diphenylamine | 0.020 mol, 3.4 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | 1,6-dibromohexane | 3.1 ml | BrCCCCCCBr | C6H12Br2
reactant | Ethyl (R)-3-piperidinecarboxylate | 0.022 mol, 3.5 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 0.022 mol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dibutylether | 30 ml | C(CCC)OCCCC | C8H18O
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (R)-N-(6-(Diphenylamino)-1-hexyl)-3-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)CCCCCCN(C1=CC=CC=C1)C1=CC=CC=C1 | C26H36N2O2
